US05945434
1-n-Propylindazole-3-carboxylic acid
To a solution of 1H-indazole-3-carboxylic acid (5.00 g) in DMF (40 ml) was gradually added 60% sodium hydride (1.55 g) at 0° C. with stirring, and the mixture was stirred at room temperature for one hour. Then 1-bromopropane (4.55 g) was added, and the mixture was stirred overnight. The reaction solution was distilled off, dissolved in water, and washed with ethyl acetate. The aqueous layer was made acidic with hydrochloric acid, extracted with ethyl acetate, then the extract was dried over anhydrous magnesium sulfate, and decolorized with active carbon. After the solvent was distilled off, crystallization from ether gave the title compound (4.24 g) as crystals. Yield=67%.

reactant | 1H-indazole-3-carboxylic acid | 5.00 g | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | sodium hydride | 1.55 g | [H-].[Na+]
reactant | 1-bromopropane | 4.55 g | BrCCC | C3H7Br
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 1-n-Propylindazole-3-carboxylic acid | 4.24 g, Yield=67% | C(CC)N1N=C(C2=CC=CC=C12)C(=O)O | C11H12N2O2
